US08133913B2
1st stage: 3-Isopropylaminocyclohex-2-enone after
Equimolar amounts of isopropylamine and cyclohexane-1,3-dione were dissolved in benzene and heated with addition of p-toluenesulfonic acid to boiling with a water trap. After the trapping of water was complete, the mixture was thoroughly washed with water, the solvent was stripped off, and the residue was recrystallized.

reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | cyclohexane-1,3-dione | C1(CC(CCC1)=O)=O | C6H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Isopropylaminocyclohex-2-enone | C(C)(C)NC1=CC(CCC1)=O | C9H15NO
